2180-07-10 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2180-7-9**] 08:00 PM
   - more calm:  CIWA spread to q2h
   - CT cancelled per surgery; KUB done
   - Mildly agitated x1 overnight but easily redirected
   - Aggressive Fluid Hydration continued 250 cc/h, electrolyte repletion
   - Belly increasingly firm overnight, surgery made aware
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2180-7-9**] 06:04 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2180-7-9**] 07:29 AM
   Pantoprazole (Protonix) - [**2180-7-9**] 08:10 AM
   Hydromorphone (Dilaudid) - [**2180-7-9**] 11:03 PM
   Heparin Sodium (Prophylaxis) - [**2180-7-10**] 12:51 AM
   Hydralazine - [**2180-7-10**] 02:00 AM
   Diazepam (Valium) - [**2180-7-10**] 06:04 AM
   Labetalol - [**2180-7-10**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-7-10**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.4
C (101.2
   HR: 114 (103 - 120) bpm
   BP: 177/82(105) {126/50(68) - 210/113(136)} mmHg
   RR: 22 (11 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,861 mL
                                                                  2,275 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  7,381 mL
                                                                  2,275 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    600 mL
   Urine:
                                                                  2,405 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,456 mL
                                                                  1,675 mL
   Respiratory support
   O2 Delivery Device: 4 L NC
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen:  anxious appearing overweight man lying calmly in bed
   HEENT:  oropharynx clear, moist mucous membranes
   Skin:  + psoriatic lesions on knuckles, R knee
   Heart:  regular, tachycardic, no murmurs
   Lungs:  clear bilaterally with decreased breath sounds at the bases
   Back:  no CVA tenderness
   Abdomen:  distention unchanged from yesterday, no bowel sounds heard,
   tympanic to percussion, tender to palpation in epigastrium, no fluid
   wave or shifting dullness, no rebound or guarding
   Labs / Radiology
   196 K/uL
   11.1 g/dL
   91 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   8 mg/dL
   106 mEq/L
   141 mEq/L
   33.9 %
   13.2 K/uL
        [image002.jpg]
                             [**2180-7-8**]  05:37 PM
                             [**2180-7-8**]  06:09 PM
                             [**2180-7-9**]  12:00 AM
                             [**2180-7-9**]  05:22 AM
                             [**2180-7-9**]  02:55 PM
                             [**2180-7-9**]  11:00 PM
                             [**2180-7-10**]  04:30 AM
   WBC
   13.3
   13.0
   13.2
   Hct
   39.7
   34.0
   33.9
   Plt
   161
   153
   196
   Cr
   1.1
   1.0
   0.9
   0.7
   0.8
   TCO2
   27
   Glucose
   111
   112
   129
   120
   98
   91
   Other labs: PT / PTT / INR:12.7/25.2/1.1, ALT / AST:76/149, Alk Phos /
   T Bili:60/0.6, Amylase / Lipase:127/138, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:457 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Blood and urine culture [**7-8**] and [**7-9**] pending
   KUB:
   patient drank PO contrast in preparation for CT today, but CT was
   cancelled.
   oral contrast in ascending colon. dilated transverse colon with a
   paucity of
   bowel gas in descending/sigmoid colon. high density overlying sacrum
   may be
   contrast from a prior CT done at an outside hospital. scattered
   air-fluid
   levels in small bowel. d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] 824pm [**7-9**].
   CXR [**7-9**] PA/lat:
                      Preliminary Report !! WET READ !!
   low lung volumes. retrocardiac opacity, likely atlectasis, unchanged in
   comparison to [**7-8**]. d/w dr [**Last Name (STitle) **] 820pm [**7-9**].
   CXR [**7-10**]
   Assessment and Plan
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Mr. [**Known lastname 6632**] is a 32 yo man with a history of EtOH abuse presenting with
   pancreatitis.
   .
   #) Acute pancreatitis:  Secondary to alcohol abuse.  WBC continues to
   be elevated, still febrile.   Dilated colon.  Overall concerning for
   infection.  Would consider doing CT.
   Meets multiple criteria for sever pancreatitis including [**Last Name (un) **]
   criteria ~5, elevated CRP, pleural effusions.  Discussed with surgery
   yesterday, who recommended CT with contrast for better evaluation of
   any fluid collection, air, necrosis.  However, this could not be obtain
   overnight secondary to agitation.   Currently he is agreeable to
   scan.   Also started irtapenem yesterday given likelihood of
   necrotizing disease, although the surgery team now feels that this is a
   bad idea.
   - continue aggressive fluid rehydration:  IV NS at 250 cc/h, titrate to
   maintain UOP >100 cc/h
   - pain management with IV dilaudid PRN
   - NPO except ice chips and sips
   - replete calcium
   - CT with contrast today
   - stop irtapenem for now pending CT today
   .
   #) Delirium:  Main differential is EtOH withdrawal vs benzodiazepine
   intoxication.   Other contributing factors include acute illness,
   possible underlying psychiatric disorder?   Currently he is calm and
   much more cooperative, completely oriented.
   - d/c 4-point restraints
   - calm reassurance
   - treat EtOH withdrawal as below
   - continue Haldol PRN extreme agitation
   - EKG for QTc given multiple doses of Haldol overnight
   - consider psych consult if unable to control
   .
   #) EtOH abuse:  Last drink 6 days ago; however, prolonged
   benzodiazepines may be lengthening withdrawal interval.  Given vast
   improvement after large doses of Valium, withdrawal (from either benzos
   and/or EtOH) is likely at play, although symptoms complicated by pain
   and anxiety.
   - Valium 10 mg q1h PRN CIWA >10
   .
   #) Fever: Febrile to 102.  Most likely secondary to pancreatitis.  Also
   on the differential would be pneumonia given effusions, but no cough,
   effusions likely secondary to 3rd spacing and capillary leak from
   pancreatitis.  Started irtapenem for empiric treatment of potentially
   necrotizing pancreatitis yesterday, but will stop now pending CT.
   - f/u blood and urine cultures
   - no antibiotics for now
   .
   #) Tachycardia:  most likely secondary to fluid sequestration
   - aggressive fluid resuscitation
   .
   #) Hypertension: seems to have been a chronic issue for him although
   never treated as an outpatient, now persistenting despite adequate
   control of pain and EtOH withdrawal.  Started labetalol yesterday.
   - uptitrate to labetalol 20 mg IV q6h; would consider hydralazine if he
   needs better control
   .
   #) Anion gap:  Anion gap on presentation to OSH 17, currently closed.
   Possibly was secondary to ketosis.
   .
   #) Elevated LFTs and INR:  AST > ALT elevated, consistent with
   pancreatitis.  [**Month (only) 8**] have underlying EtOH cirrhosis given US findings at
   OSH and elevated INR.  s/p vit K 5 mg.
   - continue to monitor
   #) Hyperglycemia:  At OSH he presented with glucose 211.  No history of
   DM.  Likely [**3-20**] pancreatitis.  FS yesterday all ~100
   - d/c QID FS so has not to irritate patient
   .
   #) GU (difficult foley insertion, hematuria, pyuria, proteinuria):
   Foley out of place per CT at OSH.  s/p replacement  by excellent
   nursing staff overnight.
   <br>
   #) F/E/N:  NPO, IVNS at 250 cc/h
   <br>
   #) Prophylaxis:   PPI, no bowel regimen given NPO
   <br>
   #) Communication.
   <br>
   #) Access:  2 PIV
   <br>
   #) Code Status:  full code (confirmed with patient)
   <br>
   #) Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-7-9**] 11:04 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-07-11 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - tried to leave AMA but willing to stay as long as he can be called
   out
   - psych to see him today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Imipenem/Cilastatin - [**2180-7-9**] 06:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2180-7-10**] 08:03 AM
   Hydralazine - [**2180-7-10**] 11:31 AM
   Heparin Sodium (Prophylaxis) - [**2180-7-10**] 04:04 PM
   Hydromorphone (Dilaudid) - [**2180-7-11**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-7-11**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 103 (91 - 116) bpm
   BP: 160/82(101) {145/66(85) - 192/106(172)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,160 mL
                                                                  1,746 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                  6,480 mL
                                                                  1,746 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    750 mL
   Urine:
                                                                  1,565 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,595 mL
                                                                    996 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% on 3L NC
   ABG: ///26/
   Physical Examination
   Gen:  anxious appearing overweight man lying calmly in bed
   HEENT:  oropharynx clear, moist mucous membranes
   Skin:  + psoriatic lesions on knuckles, R knee
   Heart:  regular, tachycardic, no murmurs
   Lungs:  clear bilaterally with decreased breath sounds at the bases
   Back:  no CVA tenderness
   Abdomen:  distention unchanged from yesterday, bowel sounds present,
   tympanic to percussion, tender to palpation in epigastrium, no fluid
   wave or shifting dullness, no rebound or guarding
   Labs / Radiology
   225 K/uL
   10.6 g/dL
   106 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.4 mEq/L
   7 mg/dL
   104 mEq/L
   138 mEq/L
   33.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2180-7-8**]  05:37 PM
                             [**2180-7-8**]  06:09 PM
                             [**2180-7-9**]  12:00 AM
                             [**2180-7-9**]  05:22 AM
                             [**2180-7-9**]  02:55 PM
                             [**2180-7-9**]  11:00 PM
                             [**2180-7-10**]  04:30 AM
                             [**2180-7-10**]  04:37 PM
                             [**2180-7-11**]  05:01 AM
   WBC
   13.3
   13.0
   13.2
   11.1
   Hct
   39.7
   34.0
   33.9
   33.4
   33.0
   Plt
   161
   153
   196
   225
   Cr
   1.1
   1.0
   0.9
   0.7
   0.8
   0.7
   TCO2
   27
   Glucose
   111
   112
   129
   120
   98
   91
   106
   Other labs: PT / PTT / INR:13.3/24.0/1.1, ALT / AST:91/122, Alk Phos /
   T Bili:69/0.4, Amylase / Lipase:73/85, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:366 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9
   mg/dL
   Blood and urine cx [**7-8**] and [**7-9**] NGTD
   AST: 122->149
   ALT: 76
   Amylase 127
   Lipase 138
   [**7-10**] KUB:
   Stable ileus with probable passage of contrast that was in the
   rectum.
   Assessment and Plan
 HYPERTENSION, BENIGN
 PANCREATITIS, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Mr. [**Known lastname 6632**] is a 32 yo man with a history of EtOH abuse presenting with
   pancreatitis.
   .
   #) Acute pancreatitis:  Secondary to alcohol abuse.  WBC continues to
   be elevated, still febrile.  He also continues to third  space
   significant amount of fluid, as evidenced by his stable Hct despite
   5.4L net in yesterday.  His abdomen is increasingly distended but this
   is more likely from partial ileus related to narcotics.   His pain and
   narcotic requirement is decreasing, and his pancreatic enzymes have
   fallen (although this does not necessarily correlate with improvement
   in pancreatitis.)
   - advance diet
   - change meds to PO
   - f/u repeat KUB read from this morning
   - continue aggressive fluid rehydration
   - consider CT with contrast if he worsens clinically
   - f/u surgery recs
   ..
   #) Hypoxia:  he was hypoxic on admission with O2 Sat 86% on RA.  He has
   been on 4L since, but it is unclear if he actually has such an oxygen
   requirement (nasal cannula half off this morning and O2 Sat 99%).
   Likely secondary to atelectasis
   - wean O2 as tolerated.
   - out of bed
   - incentive spirometry
   .
   #) Hypertension: Not treated as an outpatient, but seems to have had
   chronic HTN, now persisten tdespite initiating labetalol and
   hydralazine yesterday.
   - hydralazine 10 mg IV x 1 now
   - change to PO hydralazine and labetalol
   - uptitrate labetalol PRN
   - uptitrate to labetalol 20 mg IV q6h; would consider hydralazine if he
   needs better control
   .
   #) EtOH abuse:  Now requiring much less benzodiazepine.  Last drink 6
   days ago; however, prolonged benzodiazepines likely lengthening
   withdrawal interval.
   - Valium 10 mg q1h PRN CIWA >10
   - continue thiamine and folate
   #) Delirium:  Much improved now. Likely was secondary to EtOH
   withdrawal, ICU stay.  Currently he is calm and much more cooperative,
   completely oriented..
   .
   #) Fever: Ongoing fevers.   Most likely secondary to pancreatitis.
   Also on the differential would be pneumonia given O2 requirement and
   CXR with ? retrocardiac opacity.
   - f/u blood and urine cultures
   - no antibiotics for now
   - d/c Foley
   .
   #) Tachycardia:  most likely secondary to fluid sequestration
   - aggressive fluid resuscitation
   .
   #) Elevated LFTs and INR:  AST > ALT elevated, consistent with
   pancreatitis.  [**Month (only) 8**] have underlying EtOH cirrhosis given US findings at
   OSH and elevated INR.  s/p vit K 5 mg.
   - continue to monitor
   #) Hyperglycemia:  At OSH he presented with glucose 211.  No history of
   DM.  Likely [**3-20**] pancreatitis.  He has had normal glucose here.
   -
   <br>
   #) F/E/N:  advance diet today, IVNS at 250 cc/h
   <br>
   #) Prophylaxis:   PPI, bowel regimen, SC heparin
   <br>
   #) Communication.
   <br>
   #) Access:  2 PIV
   <br>
   #) Code Status:  full code (confirmed with patient)
   <br>
   #) Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2180-7-10**] 10:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: